US07304065B2
Preparation of 4′-fluoro-biphenyl-4-carboxylic acid (6-aminomethyl-1,2,3,4-tetrahydro-naphthalen-2-yl)-amide (4)
A suspension of 4′-fluoro-biphenyl-4-carboxylic acid (6-cyano-1,2,3,4-tetrahydro-naphthalen-2-yl)-amide, 3, (1.430 g, 3.514 mmol), Raney-Ni (0.5 g) and 28% NH4OH (1.0 mL) in DMF (25 mL) is hydrogenated for 18 hours. The catalyst is removed by filtration and the filtrate concentrated in vacuo to afford 1.352 g (94% yield) of the desired product. 1H NMR (300 MHz, DMF-D7) δ 8.55 (d, J=7.5 Hz, 1H), 8.20 (d, J=8.7 Hz, 2H), 7.72-7.85 (m, 4H), 7.35 (t, J=9.3 Hz, 2H), 6.95-7.23 (br, 3H), 4.20-4.42 (m, 1H), 3.12-3.24 (br, 2H), 2.90-3.08 (m, 4H), 2.11-2.25 (m, 1H), 1.90 (m, 1H); 13C NMR (75 MHz, DMF-D7) δ166.2, 164.8, 142.6, 136.8, 135.8, 134.5, 133.8, 129.6, 129.4, 129.3, 128.5, 127.0, 125.6, 116.4, 116.1, 64.0, 46.9, 34.2, 28.7, 28.0; 19F NMR (282 MHz, DMF-D7) δ 46.6; LRMS: 375.3 (M+H), 358.3 (M+H−NH3), HRMS: calcd: for C24H24FN2O 375.1873, found: 375.1866.

reactant | 4′-fluoro-biphenyl-4-carboxylic acid (6-cyano-1,2,3,4-tetrahydro-naphthalen-2-yl)-amide | C(#N)C=1C=C2CCC(CC2=CC1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C24H19FN2O
reactant | NH4OH | 1.0 mL | [NH4+].[OH-]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | Ni | 0.5 g | [Ni] | Ni
product | 4′-fluoro-biphenyl-4-carboxylic acid (6-aminomethyl-1,2,3,4-tetrahydro-naphthalen-2-yl)-amide | 1.352 g, 94% yield | NCC=1C=C2CCC(CC2=CC1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C24H23FN2O
